US05929067
c) 4-[N-Methyl-N-(3.5-bistrifluoromethyl-benzoyl)-amino]-5-(1H-indol-3-yl)-pentanoic acid ethyl ester
A solution of 34.3 g of 4-[N-methyl-N-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(1H-indol-3-yl)-pent-2-enoic acid ethyl ester in 340 ml of tetrahydrofuran is hydrogenated at 20° C. for 80 minutes in the presence of 3.4 g of palladium/activated carbon (10%) and 0.4 g of 1,2-dichlorobenzene. The reaction mixture is then filtered and concentrated by evaporation. In this way the title compound is obtained in the form of a brownish resin.

reactant | 4-[N-methyl-N-(3,5-bistrifluoromethyl-benzoyl)-amino]-5-(1H-indol-3-yl)-pent-2-enoic acid ethyl ester | 34.3 g | C(C)OC(C=CC(CC1=CNC2=CC=CC=C12)N(C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C)=O | C25H22F6N2O3
reactant | 1,2-dichlorobenzene | 0.4 g | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | tetrahydrofuran | 340 ml | O1CCCC1 | C4H8O
catalyst | palladium | 3.4 g | [Pd] | Pd
product | 4-[N-Methyl-N-(3.5-bistrifluoromethyl-benzoyl)-amino]-5-(1H-indol-3-yl)-pentanoic acid ethyl ester | C(C)OC(CCC(CC1=CNC2=CC=CC=C12)N(C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C)=O | C25H24F6N2O3
